US07384967B2
2-[3-Cyclopentanecarbonyl-4-(3-thiazol-2-yl-ureido)-phenyl]-N-methylacetamide (154 mg) is prepared from [3-cyclopentanecarbonyl-4-(3-thiazol-2-yl-ureido)phenyl]acetic acid (186 mg, 0.5 mmol) and 1 M solution of methylamine in THF (0.5 ml, 0.5 mmol) following the general procedure K.

reactant | [3-cyclopentanecarbonyl-4-(3-thiazol-2-yl-ureido)phenyl]acetic acid | 0.5 mmol, 186 mg | C1(CCCC1)C(=O)C=1C=C(C=CC1NC(=O)NC=1SC=CN1)CC(=O)O | C18H19N3O4S
reactant | methylamine | CN | CH5N
reactant | THF | 0.5 mmol, 0.5 ml | C1CCOC1 | C4H8O
product | 2-[3-Cyclopentanecarbonyl-4-(3-thiazol-2-yl-ureido)-phenyl]-N-methylacetamide | 154 mg | C1(CCCC1)C(=O)C=1C=C(C=CC1NC(=O)NC=1SC=CN1)CC(=O)NC | C19H22N4O3S
